US07399775B2
2-(4-Chlorophenylsulfonylmethyl)-1,3-difluorobenzene
To dimethoxyethane (10 ml) were added sodium 4-chlorobenzenesulfinate (205 mg, 1.03 mmol) and 2,6-difluorobenzyl bromide (214 mg, 1.03 mmol). The resulting mixture was stirred at 70° C. for 18 hours. After cooling the reaction mixture to room temperature, the solvent was concentrated under reduced pressure. Ethyl acetate was added to the residue and from the resulting mixture, the insoluble matter was filtered off. The filtrate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column and the fraction obtained from the ether eluate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column. The fraction obtained from the hexane:ethyl acetate (=10:1) eluate was concentrated under reduced pressure, whereby the title compound (289 mg, 93%) was obtained as a white solid.

reactant | sodium 4-chlorobenzenesulfinate | 1.03 mmol, 205 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | 2,6-difluorobenzyl bromide | 1.03 mmol, 214 mg | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | 2-(4-Chlorophenylsulfonylmethyl)-1,3-difluorobenzene | ClC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1F)F | C13H9ClF2O2S
